US08957066B2
(E)-methyl 3-(3,5-dimethyl-1H-pyrazol-4-yl)acrylate (360 mg, 2 mmol) was dissolved in DMF (6 mL). Sodium hydride, (NaH 60% dispersion, 80 mg, 1 equiv) was added in small portions while maintaining the temperature at 0° C. The mixture was then stirred at room temperature for 1 h. The mixture was cooled to 0° C. and cinnamyl bromide (394 mg, 1 equiv) was added. The mixture was then stirred overnight at room temperature. It was quenched with aqueous ammonium chloride, diluted with water, and extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography using a gradient of hexane/EtOAc (10:1 to 0:100 v/v). Fractions containing pure product were combined and the solvents were removed under reduced pressure to yield (E)-methyl 3-(1-cinnamyl-3,5-dimethyl-1H-pyrazol-4-yl)acrylate (401 mg, 68%).

reactant | (E)-methyl 3-(3,5-dimethyl-1H-pyrazol-4-yl)acrylate | 2 mmol, 360 mg | CC1=NNC(=C1/C=C/C(=O)OC)C | C9H12N2O2
reactant | Sodium hydride | [H-].[Na+]
reactant | cinnamyl bromide | 394 mg, 1 equiv | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (E)-methyl 3-(1-cinnamyl-3,5-dimethyl-1H-pyrazol-4-yl)acrylate | 401 mg, 68% | C(C=CC1=CC=CC=C1)N1N=C(C(=C1C)/C=C/C(=O)OC)C | C18H20N2O2
